US07214694B2
Preparation 45: tert-butyl(3R)-3-(3-{[(3-chloropropyl)sulfonyl]amino}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate
Method as for preparation 10 using tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (200 mg, 0.57 mmol) and 3-chloropropanesulphonyl chloride (83 μl, 0.68 mmol) as starting materials and pyridine as the base.

reactant | tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.57 mmol, 200 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | 3-chloropropanesulphonyl chloride | 0.68 mmol, 83 μl | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-butyl(3R)-3-(3-{[(3-chloropropyl)sulfonyl]amino}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | ClCCCS(=O)(=O)NC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C21H36ClN3O5S
